US08278316B2
B. 6-(4-Chlorobenzyloxy)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
Sodium hydride (13 mg, 0.32 mmol) was added to a solution of (4-chlorophenyl)methanol (46 mg, 0.32 mmol) in THF (1 mL) under nitrogen. The mixture was stirred at RT for 1 hour, then 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one Part A (35 mg, 0.108 mmol) was added and stirred for 45 min at RT. The reaction was quenched with MeOH (0.5 mL), diluted with EtOAc, washed with saturated NH4Cl, dried (Na2SO4), and concentrated. The residue was subjected to ISCO flash chromatography (silica gel/hexane-EtOAc 100:0 to 0:100 gradient). The product was then re-purified using HPLC (C18 column/10:90 to 90:10 MeOH—H2O) to afford the title compound 6-(4-chlorobenzyloxy)-3-(4-(2-hydroxy-2-methyl-propoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one H-1 (2.5 mg, 5.2% yield). LC/MS 431 (M+H)+, tR 0.91 min (method 5); 1H NMR (400 MHz, chloroform-d) δ 6.04 (1H, s), 7.38 (4H, s), 7.00 (1H, d), 6.79-6.89 (2H, m), 5.85 (1H, s), 5.27 (2H, s), 3.87 (3H, s), 3.86 (2H, s), 1.36 (6H, s).

reactant | Sodium hydride | 0.32 mmol, 13 mg | [H-].[Na+]
reactant | (4-chlorophenyl)methanol | 0.32 mmol, 46 mg | ClC1=CC=C(C=C1)CO | C7H7ClO
reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(4-chlorobenzyloxy)-3-(4-(2-hydroxy-2-methyl-propoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 2.5 mg, 5.2% yield | ClC1=CC=C(COC2=CC(N(C=N2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O5
